US04493843
A solution of 3-amino-4-methylbenzoic acid (15.1 g) and n-decanoyl chloride (19.4 g) in dry dimethylformamide (150 ml) was heated on a steam bath for 90 minutes. The solution was poured into water and the solid was collected, and recrystallised from ethanol (600 ml) to give 3-(n-decanamido)-4-methylbenzoic acid (22.5 g), in the form of a white powder, m.p. 246°-250° C.

reactant | 3-amino-4-methylbenzoic acid | 15.1 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | n-decanoyl chloride | 19.4 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-(n-decanamido)-4-methylbenzoic acid | 22.5 g | C(CCCCCCCCC)(=O)NC=1C=C(C(=O)O)C=CC1C | C18H27NO3
